US06734180B1
4-(5-acetoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine
Using 5-acetoxy-2-aminoindan hydrochloride (86 mg, 0.38 mmol), 4-chloro-5-methylthieno[2,3-d]pyrimidine (76 mg, 0.41 mmol), triethylamine (0.23 ml, 1.6 mmol), and ethanol (6 ml), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (34 mg, 0.10 mmol) having the following physical properties:

reactant | 5-acetoxy-2-aminoindan hydrochloride | 0.38 mmol, 86 mg | Cl.C(C)(=O)OC=1C=C2CC(CC2=CC1)N
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.41 mmol, 76 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
reactant | triethylamine | 1.6 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 4-(5-acetoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine | 0.10 mmol, 34 mg | C(C)(=O)OC=1C=C2CC(CC2=CC1)NC=1C2=C(N=CN1)SC=C2C | C18H17N3O2S
